US04409228
A mixture of 9.5 g of 2-chloro-6-(phenylthio) pyridine (b.p. 112° to 116° C./0.01 mm Hg, prepared by reaction of 2,6-dichloropyridine with the sodium salt of thiophenol), 7.8 g of potassium carbonate and 7.6 g of 4-acetamidopyridine in 75 ml of sulfolane is heated to 150° C. with stirring for 50 hours, then the sulfolane is concentrated to 1/5th of its volume, the mixture is poured in 100 ml of water and extraction is effected four times with 150 ml of diethyl ether. The organic phase is washed with water, dried over anhydrous sodium sulfate, concentrated to dryness and the residue is crystallised in 40 ml of ethyl acetate. 6.8 g of 4-acetamido-1-(6-phenylthio-2-pyridyl)piperidine are thus obtained; m.p. 110° to 112° C.

reactant | 2-chloro-6-(phenylthio) pyridine | 9.5 g | ClC1=NC(=CC=C1)SC1=CC=CC=C1 | C11H8ClNS
reactant | 2,6-dichloropyridine | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | sodium | [Na] | Na
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 7.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-acetamidopyridine | 7.6 g | C(C)(=O)NC1=CC=NC=C1 | C7H8N2O
solvent | sulfolane | 75 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 4-acetamido-1-(6-phenylthio-2-pyridyl)piperidine | 6.8 g | C(C)(=O)NC1CCN(CC1)C1=NC(=CC=C1)SC1=CC=CC=C1 | C18H21N3OS
